US08314138B2
To a solution of methanesulfonic acid 2-(3-{4-methyl-5-[(pyridin-3-ylmethyl)-carbamoyl]-thiazol-2-yl}-pyrazol-1-yl)-ethyl ester (0.19 g, 0.45 mmol) in methylene chloride (2 mL) was added aniline (0.91 mL, 9.93 mmol). The reaction mixture was heated under nitrogen at 85° C. for 16 hr. The reaction mixture was diluted with ethyl acetate (50 mL), washed with NaHCO3 (100 mL), water (100 mL) and brine (100 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by preparative thin layer chromatography over silica gel (methylene chloride:methanol, 95:5) to provide 4-methyl-2-[1-(2-phenylamino-ethyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide as a white solid (0.052 g, 52%). 1H NMR (400 MHz, CDCl3) δ 8.66 (s, 1H), 8.58 (d, J=4 Hz, 1H), 7.78 (d, J=8 Hz, 1H), 7.41 (d, J=2 Hz, 1H), 7.32-7.37 (m, 1H), 7.17-7.23 (m, 2H), 6.83 (d, J=2 Hz, 1H), 6.76 (t, J=8 Hz, 1H), 6.63 (d, J=5 Hz, 2H), 6.18-6.23 (m, 1H), 4.67 (d, J=8 Hz, 2H), 4.38 (t, J=4 Hz, 2H), 3.68 (t, J=4 Hz, 2H), 2.77 (s, 3H); MS (M+H)+=419.2; Rt=1.23 min; HRMS (M+H)+=419.17.

reactant | methanesulfonic acid 2-(3-{4-methyl-5-[(pyridin-3-ylmethyl)-carbamoyl]-thiazol-2-yl}-pyrazol-1-yl)-ethyl ester | 0.45 mmol, 0.19 g | CC=1N=C(SC1C(NCC=1C=NC=CC1)=O)C1=NN(C=C1)CCOS(=O)(=O)C | C17H19N5O4S2
reactant | aniline | 9.93 mmol, 0.91 mL | NC1=CC=CC=C1 | C6H7N
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-[1-(2-phenylamino-ethyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | 0.052 g, 52% | N1=CC(=CC=C1)CNC(=O)C1C(N=C(S1)C1=NN(C=C1)CCNC1=CC=CC=C1)(C)C | C23H26N6OS
